US04238618
The following cycloadducts are accessible analogously: 6-methyl-2,4-diacetyl-2,4-diaza-bicyclo[3,2,0]heptan-3-one, boiling point0.25 111°-115° (77%); 6,6-dimethyl-2,4-diacetyl-2,4-diaza-bicyclo[3,2,0]heptan-3-one, boiling point0.4 103°-104° (67%); 6-tert.-butyl-2,4-diacetyl-2,4-diaza-bicyclo[3,2,0]heptan-3-one, melting point 85°-86° (54%); 6,6,7,7-tetramethyl-2,4-diacetyl-2,4-diaza-bicyclo[3,2,0]heptan-3-one, melting point 79°-81° (78%); 6-methylene-2,4-diacetyl-2,4-diaza-bicyclo[3,2,0]heptan-3-one, melting point 109°-111° (71%); 6-methoxy-2,4-diacetyl-2,4-diaza-bicyclo[3,2,0]heptan-3-one, boiling point1 120-124 (68%), stereoisomers; 6-acetoxy-2,4-diacetyl-2,4-diaza-bicyclo[3,2,0]heptan-3-one, melting point 151°-153° (single stereoisomer) (82% total yield); 8,10-diacetyl-8,10-diaza-tricyclo[5,3,0,02,6 ]decan-9-one, melting point 148°-150° (single stereoisomer, yield: 40%); and 2',4'-diacetyl-spiro[cyclopropane-1,6'-diaza-(2',4')-bicyclo[3,2,0]heptan-3'-one], melting point 63° (74%).

reactant | 6-methyl-2,4-diacetyl-2,4-diaza-bicyclo[3,2,0]heptan-3-one | CC1C2N(C(N(C2C1)C(C)=O)=O)C(C)=O | C10H14N2O3
reactant | 6,6-dimethyl-2,4-diacetyl-2,4-diaza-bicyclo[3,2,0]heptan-3-one | CC1(C2N(C(N(C2C1)C(C)=O)=O)C(C)=O)C | C11H16N2O3
reactant | 6-tert.-butyl-2,4-diacetyl-2,4-diaza-bicyclo[3,2,0]heptan-3-one | C(C)(C)(C)C1C2N(C(N(C2C1)C(C)=O)=O)C(C)=O | C13H20N2O3
reactant | 6,6,7,7-tetramethyl-2,4-diacetyl-2,4-diaza-bicyclo[3,2,0]heptan-3-one | CC1(C2N(C(N(C2C1(C)C)C(C)=O)=O)C(C)=O)C | C13H20N2O3
reactant | 6-methylene-2,4-diacetyl-2,4-diaza-bicyclo[3,2,0]heptan-3-one | C=C1C2N(C(N(C2C1)C(C)=O)=O)C(C)=O | C10H12N2O3
reactant | 6-methoxy-2,4-diacetyl-2,4-diaza-bicyclo[3,2,0]heptan-3-one | COC1C2N(C(N(C2C1)C(C)=O)=O)C(C)=O | C10H14N2O4
product | 6-acetoxy-2,4-diacetyl-2,4-diaza-bicyclo[3,2,0]heptan-3-one | yield: 40% | C(C)(=O)OC1C2N(C(N(C2C1)C(C)=O)=O)C(C)=O | C11H14N2O5
